US04622232
N-Boc-aminoisobutyric acid is dissolved in tetrahydrofuran and stirred at 0° C. under argon. Bis(N-methylpiperazinyl)aluminum hydride is added and the reaction mixture heated to reflux overnight. Ether is then added, and the excess hydride is quenched with saturated NaCl. The aqueous phase is separated and extracted with ether. The combined organic phases are washed with 2M NaOH, 2M HCl and saturated NaCl. The solution is dried over NaSO4 and evaporated to yield N-Boc-2-amino-2-methylpropanol.

reactant | N-Boc-aminoisobutyric acid | C(=O)(OC(C)(C)C)NC(C(=O)O)(C)C | C9H17NO4
reactant | Bis(N-methylpiperazinyl)aluminum hydride | [H-].CN1C(CNCC1)[Al+]C1N(CCNC1)C
reactant | Ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-Boc-2-amino-2-methylpropanol | C(=O)(OC(C)(C)C)NC(CO)(C)C | C9H19NO3
